US06750232B2
2-Amino-5-(1-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinamide
2-Amino-5-(1-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinic acid (20 mg, 61.5 μmol), 1-hydroxybenzotriazole (28 mg, 183 μmol), 3-(3′-dimethylaminopropyl)-1-ethyl carbodiimide (29 mg, 187 μmol), ammonium chloride (16 mg, 299 μmol), and a suspension of triethylamine (43 μL, 309 μmol) in N,N-dimethylformamide (1.0 mL) was stirred at room temperature for 18 hours. After diluting the reaction solution with water, the resulting solid was collected by filtration and washed with water, to give the title compound (9 mg, 45%) as a pale yellow solid.

reactant | 2-Amino-5-(1-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinic acid | 61.5 μmol, 20 mg | NC1=C(C(=O)O)C=C(C(=N1)C=1OC=CC1)C1=CN(C(C=C1)=O)CC | C17H15N3O4
reactant | 1-hydroxybenzotriazole | 183 μmol, 28 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(3′-dimethylaminopropyl)-1-ethyl carbodiimide | 187 μmol, 29 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | ammonium chloride | 299 μmol, 16 mg | [Cl-].[NH4+]
reactant | triethylamine | 309 μmol, 43 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Amino-5-(1-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinamide | 9 mg, 45% | NC1=C(C(=O)N)C=C(C(=N1)C=1OC=CC1)C1=CN(C(C=C1)=O)CC | C17H16N4O3
